US06251921B1
Preparation of 1-[2-[4-[7-Fluoro-6-hydroxy-3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]benzo[b]thiophen-2-yl]phenoxy]ethyl]pyrrolidine Dioxalate
A solution of 7-fluoro-2-[4-hydroxyphenyl]-6-methoxybenzo[b]thiophene (Part C; 550 mg, 2.0 mmol), 1-(2-chloroethyl)pyrrolidine hydrochloride (375 mg, 2.2 mmol) and Cs2CO3 (1.65 g, 5.0 mmol) in 20 mL of DMF was heated at 80° C. for 5 h. The reaction mixture was cooled to ambient temperature and poured into saturated aqueous NaHCO3 solution (20 mL). The aqueous layer was extracted with EtOAc (2×20 mL). The combined organics were washed with H2O (2×50 mL) and brine (50 mL), dried over Na2SO4, filtered, and concentrated. Purification by radial chromatography (SiO2; 2% MeOH in CHCl3, saturated with NH4OH) afforded 598 mg (1.61 mmol; 80%) of the title compound as a yellow oil.

reactant | 7-fluoro-2-[4-hydroxyphenyl]-6-methoxybenzo[b]thiophene | 2.0 mmol, 550 mg | FC1=C(C=CC2=C1SC(=C2)C2=CC=C(C=C2)O)OC | C15H11FO2S
reactant | 1-(2-chloroethyl)pyrrolidine hydrochloride | 2.2 mmol, 375 mg | Cl.ClCCN1CCCC1
reactant | Cs2CO3 | 5.0 mmol, 1.65 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-[2-[4-[7-Fluoro-6-hydroxy-3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]benzo[b]thiophen-2-yl]phenoxy]ethyl]pyrrolidine Dioxalate | C(C(=O)O)(=O)O.C(C(=O)O)(=O)O.FC1=C(C=CC2=C1SC(=C2CC2=CC=C(C=C2)OCCN2CCCC2)C2=CC=C(OCCN1CCCC1)C=C2)O | InChI=1S/C33H37FN2O3S.2C2H2O4/c34-31-30(37)14-13-28-29(23-24-5-9-26(10-6-24)38-21-19-35-15-1-2-16-35)32(40-33(28)31)25-7-11-27(12-8-25)39-22-20-36-17-3-4-18-36;2*3-1(4)2(5)6/h5-14,37H,1-4,15-23H2;2*(H,3,4)(H,5,6)
